US07872144B2
Preparation of Minodronic Acid
Imidazo[1,2-a]pyridin-3-yl acetic acid (46 gm), phosphorous acid (75 gm) and 1,4-Dioxane (900 mL) was taken in a four necked round bottom flask fitted with an addition funnel, mechanical stirrer, condenser and thermometer pocket and allowed to stir at 90-95° C. Phosphorus trichloride (130 gm) was then added to reaction mixture and allowed to heat at 90-95° C. The reaction mixture was cooled and distilled water (450 mL) was added to it. The reaction mixture was further heated to 90-95° C. It was then cooled and acetone (1400 mL) was added to it. The solution was further cooled to 0-5° C. and stirred for 4-5 hrs. The precipitated solid was filtered and dried under vacuum to give 44 gm of product.

reactant | Imidazo[1,2-a]pyridin-3-yl acetic acid | 46 gm | N=1C=C(N2C1C=CC=C2)CC(=O)O | C9H8N2O2
reactant | phosphorous acid | 75 gm | P(O)(O)O | H3O3P
reactant | Phosphorus trichloride | 130 gm | P(Cl)(Cl)Cl | Cl3P
solvent | 1,4-Dioxane | 900 mL | O1CCOCC1 | C4H8O2
product | Minodronic Acid | 44 gm | C=1C=CN2C(C1)=NC=C2CC(O)(P(=O)(O)O)P(=O)(O)O | C9H12N2O7P2
